US05102667
Trifluoroacetic acid (3 drops) is added to a solution of 4,4-bis-(2-fluorophenyl)-cyclohexenone (4.3 g) and N-butoxymethyl-N-trimethylsilylmethylbenzylamine (5.8 cc) in dry dichloromethane (30 cc). The reaction mixture is brought to reflux and then stirred for 16 hours after having allowed the temperature to return to 25° C. N-Butoxymethyl-N-trimethylsilymethylbenzylamine (2.5 cc) and trifluoroacetic acid (3 drops) are added and the mixture is stirred for 3 hours under reflux. The reaction mixture is treated with potassium carbonate (3 g) and stirred for 15 minutes. After filtering and concentrating the filtrate to dryness under reduced pressure (2.7 kPa), the residue is chromatographed on a silica gel column (particle size 0.04-0.063 mm, diameter 4 cm, height 32 cm), eluting under a nitrogen pressure of 0.5 bar with a mixture of cyclohexane and ethyl acetate (85/15) and collecting 20 cc fractions. Fractions 13 to 22 are combined and concentrated to dryness under reduced pressure (2.7 kPa) to give (3aRS,7aRS)-2-benzyl-7,7-bis-(2-fluorophenyl)-4-perhydroisoindolone (2.28 g). m.p.=138° C.

reactant | 4,4-bis-(2-fluorophenyl)-cyclohexenone | 4.3 g | FC1=C(C=CC=C1)C1(C=CC(CC1)=O)C1=C(C=CC=C1)F | C18H14F2O
reactant | N-butoxymethyl-N-trimethylsilylmethylbenzylamine | 5.8 cc | C(CCC)OCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C16H29NOSi
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Trifluoroacetic acid | 3 drops | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
catalyst | trifluoroacetic acid | 3 drops | FC(C(=O)O)(F)F | C2HF3O2
product | (3aRS,7aRS)-2-benzyl-7,7-bis-(2-fluorophenyl)-4-perhydroisoindolone | 2.28 g | C(C1=CC=CC=C1)N1CC2C(CCC(C2C1)=O)(C1=C(C=CC=C1)F)C1=C(C=CC=C1)F | C27H25F2NO
